US06743789B2
6-Isopropyl-1H-benzo[d][1,3]oxazine-2,4-dione
A mixture of 2-amino-5-isopropylbenzoic acid (30. g, 16.7 mmol) and ethyl chloroformate (1.75 mL, 18.4 mmol) in dioxane (20 mL) was heated under reflux for 2 h. After cooling, acetyl chloride (1.4 mL) was added and heating under reflux continued for another 3 h. After cooling, the mixture was evaporated and the resulting solid digested with tert-butyl methyl ether: heptane (1:1, 20 mL) by heating under reflux for 1 h. The soild was then filtered off and washed with tert-butyl methyl ether: heptane (1:1, 10 mL). Yield 3.1 g (89%). m/z 204 (M—H−).

reactant | 2-amino-5-isopropylbenzoic acid | 16.7 mmol | NC1=C(C(=O)O)C=C(C=C1)C(C)C | C10H13NO2
reactant | ethyl chloroformate | 18.4 mmol, 1.75 mL | ClC(=O)OCC | C3H5ClO2
reactant | acetyl chloride | 1.4 mL | C(C)(=O)Cl | C2H3ClO
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 6-Isopropyl-1H-benzo[d][1,3]oxazine-2,4-dione | C(C)(C)C1=CC2=C(NC(OC2=O)=O)C=C1 | C11H11NO3
